US04003884
b. Glu-His-Trp-Ser-Tyr-D-Leu-Cys(But)-Arg-Pro-NH-C2H5 -diacetate
In analogy to Example 7(e) 469.5 mg (0.5 mol) of H-Ser-Tyr-D-Leu-Cys(But)-Arg-Pro-NH-C2H5 -diacetate were reacted with Glu-His-Trp-NH-NH2, worked up and purified over Dowex 1 × 2 (acetate form) and carboxymethyl cellulose. Since the substance was not yet completely pure it was purified in analogy to Example 1(a) on Sephadex LH 20.

reactant | H-Ser-Tyr-D-Leu-Cys(But)-Arg-Pro-NH-C2H5 diacetate | N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CC(C)C)C(=O)N[C@@H](CSC(C)(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC)CCC1.CC(=O)CC(=O)O
reactant | Glu-His-Trp-NH-NH2 | N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NN | C22H28N8O5
product | Glu-His-Trp-Ser-Tyr-D-Leu-Cys(But)-Arg-Pro-NH-C2H5 diacetate | N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CC(C)C)C(=O)N[C@@H](CSC(C)(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC)CCC1.CC(=O)CC(=O)O | InChI=1S/C60H88N16O13S.C4H6O3/c1-7-65-57(88)48-15-11-23-76(48)58(89)41(14-10-22-66-59(62)63)69-56(87)47(31-90-60(4,5)6)75-51(82)42(24-33(2)3)71-52(83)43(25-34-16-18-37(78)19-17-34)72-55(86)46(30-77)74-53(84)44(26-35-28-67-40-13-9-8-12-38(35)40)73-54(85)45(27-36-29-64-32-68-36)70-50(81)39(61)20-21-49(79)80;1-3(5)2-4(6)7/h8-9,12-13,16-19,28-29,32-33,39,41-48,67,77-78H,7,10-11,14-15,20-27,30-31,61H2,1-6H3,(H,64,68)(H,65,88)(H,69,87)(H,70,81)(H,71,83)(H,72,86)(H,73,85)(H,74,84)(H,75,82)(H,79,80)(H4,62,63,66);2H2,1H3,(H,6,7)/t39-,41-,42+,43-,44-,45-,46-,47-,48-;/m0./s1
